US04209521
1-(Indol-3-ylmethyl)-4-ureidopiperidine
1-[1-(Indol-3-ylmethyl)piperid-4-yl]-3-benzoylurea (0.5 g, 1.33 mmol) was added to a solution of sodium hydroxide (1 g, 0.025 mol) in water (4 ml) and methanol (16 ml). The resulting suspension was stirred for 3 hours until all the solid material had dissolved then allowed to stand at room temperature overnight, giving a blue solution. The solvents were evaporated in vacuo and the solid residue triturated thoroughly with water, collected and dried (0.32 g, 88.9%). The obtained title compound was then recrystallised from aqueous ethanol, mp--softens slowly from 122°-128° C.

reactant | 1-[1-(Indol-3-ylmethyl)piperid-4-yl]-3-benzoylurea | 1.33 mmol, 0.5 g | N1C=C(C2=CC=CC=C12)CN1CCC(CC1)NC(=O)NC(C1=CC=CC=C1)=O | C22H24N4O2
reactant | sodium hydroxide | 0.025 mol, 1 g | [OH-].[Na+]
solvent | water | 4 ml | O | H2O
solvent | methanol | 16 ml | CO | CH4O
product | 1-(Indol-3-ylmethyl)-4-ureidopiperidine | N1C=C(C2=CC=CC=C12)CN1CCC(CC1)NC(=O)N | C15H20N4O
